US05786374
A mixture of 5.3 g of 3-ethyl-1,2-benzisoxazole, 6.4 g of N-bromosuccinimide and 50 ml of carbon tetrachloride is refluxed for 1 h. Afterwards c. 50 mg of α,α-azoisobutyro-nitrile are added and the mixture is refluxed for a further 1 h. After cooling and filtering the mixture, the filtrate is concentrated under vacuum. The crude product is purified by chromatography over silica gel with ethyl acetate/hexane (1:1) to give 3-(1-bromoethyl)-1,2-benzisoxazole as an oil.

reactant | 3-ethyl-1,2-benzisoxazole | 5.3 g | C(C)C1=NOC2=C1C=CC=C2 | C9H9NO
reactant | N-bromosuccinimide | 6.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | α,α-azoisobutyro-nitrile | 50 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(1-bromoethyl)-1,2-benzisoxazole | BrC(C)C1=NOC2=C1C=CC=C2 | C9H8BrNO
